US05405861
In chloroform (10 ml) was dissolved 2-cyclopropyl-4-hydroxymethylthiazole (0.9 g), to which was added dropwise, under ice-cooling, thionyl chloride (0.68 ml), followed by stirring for 30 minutes at room temperature. Excess thionyl chloride was distilled off under reduced pressure. To the residue was added diethyl ether to yield 2-cyclopropyl-4-chloromethyl thiazole hydrochloride (1.1 g) as pale brown powder. m.p. 108°-110° C.

reactant | 2-cyclopropyl-4-hydroxymethylthiazole | 0.9 g | C1(CC1)C=1SC=C(N1)CO | C7H9NOS
reactant | thionyl chloride | 0.68 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-cyclopropyl-4-chloromethyl thiazole hydrochloride | 1.1 g | Cl.C1(CC1)C=1SC=C(N1)CCl | InChI=1S/C7H8ClNS.ClH/c8-3-6-4-10-7(9-6)5-1-2-5;/h4-5H,1-3H2;1H
